US04885298
A solution containing 1 g 3-hydroxymethylidene-flavanone and 0.3 g imidazole in 10 ml absolute ethanol is refluxed for 10 minutes then cooled on an ice bath. After evaporation the oil is dissolved in methylene chloride and purified by acidic extraction. The resulting oil is crystallized in a mixture of hexane and ethyl acetate. Pure 3-(1-imidazolyl)methylidene-flavanone is obtained as white crystals; m.p. 129°-131° C.

reactant | 3-hydroxymethylidene-flavanone | 1 g | OC=C1C(OC2=CC=CC=C2C1=O)C1=CC=CC=C1 | C16H12O3
reactant | imidazole | 0.3 g | N1C=NC=C1 | C3H4N2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-(1-imidazolyl)methylidene-flavanone | N1(C=NC=C1)C=C1C(OC2=CC=CC=C2C1=O)C1=CC=CC=C1 | C19H14N2O2
